US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide
60.0 mg (0.225 mmol) of 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 36.5 mg (0.270 mmol) of 3-phenylpropylamine were dissolved in 10 ml of dichloromethane. 64.7 mg (0.338 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=100/1 to 10/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.225 mmol, 60.0 mg | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)O)COC)=O | C13H13ClN2O4
reactant | 3-phenylpropylamine | 0.270 mmol, 36.5 mg | C1(=CC=CC=C1)CCCN | C9H13N
reactant | WSC hydrochloride | 0.338 mmol, 64.7 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide | C1(=CC=CC=C1)CCCNC(=O)C=1C(NC(NC1COC)=O)C1=CC(=CC=C1)Cl | C22H24ClN3O3
